US05830901
Step 1: 4-(2-Thienyl)ethynyl-1,2,3,6-tetrahydropyridine
A solution of 1-tert-butoxycarbonyl-4-(2-thienyl)ethynyl-1,2,3,6-tetrahydropyridine (530 mg, 1.8 mmol) (prepared in a manner analogous to Example 1) in diethyl ether (10 ml) at room temperature under a nitrogen atmosphere was treated with excess ethereal hydrogen chloride. Following a 3 hour stir at room temperature the dark mixture was diluted with water and extracted with diethyl ether (2×30 ml). The aqueous phase was made basic with potassium carbonate solution (sat.) and extracted with diethyl ether (3×50 ml). The extracts were dried (K2CO3) and evaporated in vacuo to give the title compound as a brown oil (267 mg, 77%); δH (CDCl3) 2.24-2.29 (2H, m, tetrahydropyridinyl CH2), 3.00 (2H, J 5.7 Hz, tetrahydropyridinyl CH2), 3.45-3.47 (2H, m, tetrahydropyridinyl CH2), 6.17-6.19 (1H, m, tetrahydropyridinyl CH), 6.94-6.97 (1H, m, ArH), 7.16-7.17 (1H, m, ArH) and 7.22-7.26 (1H, m, ArH).

reactant | 1-tert-butoxycarbonyl-4-(2-thienyl)ethynyl-1,2,3,6-tetrahydropyridine | 1.8 mmol, 530 mg | C(C)(C)(C)OC(=O)N1CCC(=CC1)C#CC=1SC=CC1 | C16H19NO2S
reactant | hydrogen chloride | Cl | ClH
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | water | O | H2O
product | 4-(2-Thienyl)ethynyl-1,2,3,6-tetrahydropyridine | 267 mg, 77% | S1C(=CC=C1)C#CC=1CCNCC1 | C11H11NS
